US06420409B1
A mixture of wet crystals of 4-(acetylamino)-3-nitrobenzoate (45.3 g, purity: 66.2%), ethanol (191.6 g), water (31.9 g), and palladium-on-carbon (palladium content: 5%, water content: 50%, 3.0 g) was stirred at 40° C. for 19 hours at a hydrogen atmosphere. The catalyst was collected by filtration and washed with a mixed solvent of water and ethanol (1/9, 30.0 g). The filtrate was concentrated, and t-butyl methyl ether (33.0 g) was added dropwise thereto at 50° C., and the mixture was cooled to 10° C. to effect crystallization. Crystals were collected and washed with t-butyl methyl ether (30.0 g), and dried at 60° C. under reduced pressure. Thus, ethyl 4-(acetylamino)-3-aminobenzoate (18.2 g) was obtained.

reactant | 4-(acetylamino)-3-nitrobenzoate | 45.3 g | C(C)(=O)NC1=C(C=C(C(=O)[O-])C=C1)[N+](=O)[O-]
reactant | ethanol | 191.6 g | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 3.0 g | [Pd] | Pd
solvent | water | 31.9 g | O | H2O
product | ethyl 4-(acetylamino)-3-aminobenzoate | 18.2 g | C(C)(=O)NC1=C(C=C(C(=O)OCC)C=C1)N | C11H14N2O3
